US03950333
Reacting N-(2-pyrazinylmethyl)ethylenediamine with S-methyl-N-nitroisothiourea by the procedure of Example 2(ii) gives N-nitro-N'-[2-(2-pyrazinylmethylamino)ethyl]guanidine. Similarly, from the same starting material, according to the procedure of Example 2(iii), there is produced N-methyl-N'-nitro-N"-[2-(2-pyrazinylmethylamino)ethyl]guanidine.

reactant | N-(2-pyrazinylmethyl)ethylenediamine | N1=C(C=NC=C1)CNCCN | C7H12N4
reactant | S-methyl-N-nitroisothiourea | CSC(N[N+](=O)[O-])=N | C2H5N3O2S
product | N-nitro-N'-[2-(2-pyrazinylmethylamino)ethyl]guanidine | [N+](=O)([O-])NC(=N)NCCNCC1=NC=CN=C1 | C8H13N7O2
